US07541372B2
Propane-2-sulfonic acid {3-methoxy-4-[5-(5-methyl-3-phenyi-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-amide
To a solution of 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine (200 mg, 0.57 mmol) in tetrahydrofuran (5 mL) was added at 0° C. potassium bis(trimethylsilyl)amide (0.91 M in tetrahydrofuran, 1.51 mL, 1.38 mmol). After stirring for 15 min at this temperature isopropylsulfonyl chloride (319 mg, 2.24 mmol) was added and stirring was continued at ambient temperature for 76 h. Further isopropylsulfonyl chloride (107 mg, 0.75 mmol) and pyridine (454 mg, 5.74) were added and stirring was continued for 24 h. The resulting suspension was extracted with ethyl acetate (20 mL) and the combined organic layers were washed with aqueous sodium carbonate (saturated). Drying over sodium sulfate and purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane 50:30:20 to 20:60:20) afforded the title compound (29 mg, 11%) as a yellow solid. MS: m/e 455.2 [M+H]+.

reactant | 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine | 0.57 mmol, 200 mg | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N | C19H16N4O3
reactant | potassium bis(trimethylsilyl)amide | 1.38 mmol, 0.91 M, 1.51 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | isopropylsulfonyl chloride | 2.24 mmol, 319 mg | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | isopropylsulfonyl chloride | 0.75 mmol, 107 mg | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | pyridine | 454 mg | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Propane-2-sulfonic acid {3-methoxy-4-[5-(5-methyl-3-phenyi-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-amide | 29 mg, 11% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)NS(=O)(=O)C(C)C | C22H22N4O5S
